US05436134
Example 28: Preparation of 1,2-dihydro-4-methyl-1-(thiophen-3-yl)-2-quinolone
A mixture of 0.8 g of 2-hydroxy-4-methylquinoline, 1.22 g of 3-bromothiophene, 0.69 g of potassium carbonate and 1.9 g of iodobenzene in 10 mL of DMF is heated to reflux for 16 hours. The reaction is worked up with water and ethyl acetate and the desired product is isolated by column chromatography.

reactant | 2-hydroxy-4-methylquinoline | 0.8 g | OC1=NC2=CC=CC=C2C(=C1)C | C10H9NO
reactant | 3-bromothiophene | 1.22 g | BrC1=CSC=C1 | C4H3BrS
reactant | potassium carbonate | 0.69 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodobenzene | 1.9 g | IC1=CC=CC=C1 | C6H5I
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1,2-dihydro-4-methyl-1-(thiophen-3-yl)-2-quinolone | CC1=CC(N(C2=CC=CC=C12)C1=CSC=C1)=O | C14H11NOS
